US09120822B2
Diethyl azodicarboxylate (250 μL, 1.87 mmol, 6.43 eq) is added at room temperature to a stirred solution of 4-[3-hydroxy-2-(4-nitro-pyrazol-1-yl)-propyl]-6-methoxy-quinolin-3-ol (100 mg, 0.29 mmol, 1.0 eq) and triphenylphosphine (122 mg, 0.46 mmol, 1.6 eq) in N,N-dimethylformamide (38 mL). After 3 hours stiffing at room temperature, solvent is evaporated and the residue is extracted with ethyl acetate (3×20 mL) and water (20 mL). The combined organic layers are dried over sodium sulfate, filtered and concentrated to give a crude product that is purified by column chromatography (silica gel, eluent: petroleum ether:ethyl acetate, 1:1, v/v) to afford 6-methoxy-3-(4-nitro-pyrazol-1-yl)-3,4-dihydro-2H-1-oxa-9-aza-phenanthrene as a light yellow solid (60 mg, 63% yield).

reactant | Diethyl azodicarboxylate | 1.87 mmol, 250 μL, 6.43 eq | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 4-[3-hydroxy-2-(4-nitro-pyrazol-1-yl)-propyl]-6-methoxy-quinolin-3-ol | 0.29 mmol, 100 mg, 1.0 eq | OCC(CC1=C(C=NC2=CC=C(C=C12)OC)O)N1N=CC(=C1)[N+](=O)[O-] | C16H16N4O5
reactant | triphenylphosphine | 0.46 mmol, 122 mg, 1.6 eq | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 38 mL | CN(C=O)C | C3H7NO
product | 6-methoxy-3-(4-nitro-pyrazol-1-yl)-3,4-dihydro-2H-1-oxa-9-aza-phenanthrene | 60 mg, 63% yield | COC=1C=C2C=3CC(COC3C=NC2=CC1)N1N=CC(=C1)[N+](=O)[O-] | C16H14N4O4
